US07435837B2
Treatment of (±)-1-[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (0.947 g, 3.73 mmol) with diisopropylethylamine (0.725 g, 5.60 mmol) and benzyl chloroformate (0.7647 g, 4.48 mmol) generally according to the procedure described for Intermediate 12 gave 1.26 g (87%) of (±)-benzyl[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as a colorless oil Rf=0.56 (silica, ethyl acetate:hexanes 1:4); Anal. calcd. for C25H25NO3: C, 77.49; H, 6.50; N, 3.61. Found: C, 77.42H, 6.57; N, 3.62. Chiral HPLC separation of (±)-benzyl[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralcel OJ, methanol:carbon dioxide 4:6) provided two fractions. Fraction 1 (Rt=2.89 min, Chiralcel OJ, methanol:carbon dioxide 4:6); Fraction 2 (Rt=3.84 min, Chiralcel OJ, methanol:carbon dioxide 4:6).

reactant | (±)-1-[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 3.73 mmol, 0.947 g | CC1=C(C(=CC=C1)C)C1=CC=CC=2CC(OC21)CN | C17H19NO
reactant | diisopropylethylamine | 5.60 mmol, 0.725 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 4.48 mmol, 0.7647 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 1.26 g, 87% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2C)C)=O | C25H25NO3
